US06787561B1
Synthesis of 2-(5-hydroxypentyloxy)pyridine
10.5 g of 1,5-pentadiol, 5.68 g of 2-chloropyridine, 5.6 g of KOH and 5.3 g of 18-crown-6-ether were added to 20 ml of toluene and the mixture was refluxed for 8 hours. After cooling, the reaction mixture was added with water and extracted with chloroform. The extract was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane) to obtain 6.5 g of the title compound (yield: 72%).

reactant | 2-chloropyridine | 5.68 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | KOH | 5.6 g | [OH-].[K+]
reactant | 18-crown-6-ether | 5.3 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(5-hydroxypentyloxy)pyridine | 6.5 g, yield: 72% | OCCCCCOC1=NC=CC=C1 | C10H15NO2
